US07528159B2
A solution of 0.2 g (0.98 mmol) of 5-(2-chloro-phenyl)-pyridin-2-ylamine and 0.23 g of 5-fluoro-2-methyl-benzenesulfonyl chloride (1.1 mmol) in pyridine (10 ml) was stirred at RT until completion of reaction according to HPLC analysis (48 h). After concentration in vacuo the residue was taken up in EtOAc, the solution washed with 1 N aqueous HCl, saturated brine then dried over sodium sulphate and concentrated in vacuo. The precipitate was collected by filtration and dried in a high vacuum to give 0.21 g (57%) of N-[5-(2-chloro-phenyl)-pyridin-2-yl]-5-fluoro-2-methyl-benzenesulfonamide as an off-white crystalline solid. ISN mass spectrum, m/e: 375.2 (M−1 calculated for C18H14ClFN2O2S: 375).

reactant | 5-(2-chloro-phenyl)-pyridin-2-ylamine | 0.98 mmol, 0.2 g | ClC1=C(C=CC=C1)C=1C=CC(=NC1)N | C11H9ClN2
reactant | 5-fluoro-2-methyl-benzenesulfonyl chloride | 1.1 mmol, 0.23 g | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(2-chloro-phenyl)-pyridin-2-yl]-5-fluoro-2-methyl-benzenesulfonamide | 0.21 g, 57% | ClC1=C(C=CC=C1)C=1C=CC(=NC1)NS(=O)(=O)C1=C(C=CC(=C1)F)C | C18H14ClFN2O2S
